US06252084B1
2-Ethyl-4-hydroxy-1-(phenylmethyl)-1H-indole-3-acetamide (135 mg, 0.44 mmol) was added to 17.6 mg (0.44 mmol) of NaH/mineral oil (washed with hexanes) in 5 mL of DMF, stirred 0.5 hour, 0.04 mL (0.44 mmol) of methyl 2-bromoacetate added and stirring maintained for 5 hours. The mixture was diluted with water, extracted with ethyl acetate. Some material was insoluble and was filtered. The ethyl acetate was washed with brine, dried (MgSO4) and concentrated. The residue was combined with the filtered material to give 119 mg (71% yield) of 2-[[3-(2-amino-2-oxoethyl)-2-ethyl-1-(phenylmethyl)-1H-indol-4-yl]oxy]acetic acid methyl ester.

reactant | 2-Ethyl-4-hydroxy-1-(phenylmethyl)-1H-indole-3-acetamide | 0.44 mmol, 135 mg | C(C)C=1N(C2=CC=CC(=C2C1CC(=O)N)O)CC1=CC=CC=C1 | C19H20N2O2
reactant | NaH | 0.44 mmol, 17.6 mg | [H-].[Na+]
reactant | methyl 2-bromoacetate | 0.44 mmol, 0.04 mL | BrCC(=O)OC | C3H5BrO2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-[[3-(2-amino-2-oxoethyl)-2-ethyl-1-(phenylmethyl)-1H-indol-4-yl]oxy]acetic acid methyl ester | 119 mg, 71% yield | COC(COC1=C2C(=C(N(C2=CC=C1)CC1=CC=CC=C1)CC)CC(=O)N)=O | C22H24N2O4
